US07345180B2
1-(2,2-Dimethylpropionyloxymethyl)-1H-indole-3-carboxylic acid
Sodium hydride (218 mg) was added to a solution of 1H-indole-3-carboxylic acid (400 mg) in N,N-dimethylformamide (4 ml) with ice cooling, and the mixture was stirred for 30 minutes. Chloromethyl2,2-dimethylpropionate (373 mg) was added thereto, and the mixture was warmed to room temperature and stirred for 2 hours. Water was added thereto, and the aqueous phase was washed with ether. The aqueous phase was acidified by 2 N hydrochloric acid and extracted with ether. The organic phase was washed with a saturated saline solution and dried over sodium sulfate anhydrous. The product was concentrated under reduced pressure to give the title compound (540 mg, Y.:79%) as orange crystals.

reactant | Sodium hydride | 218 mg | [H-].[Na+]
reactant | 1H-indole-3-carboxylic acid | 400 mg | N1C=C(C2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | Chloromethyl2,2-dimethylpropionate | 373 mg | ClCOC(C(C)(C)C)=O | C6H11ClO2
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 1-(2,2-Dimethylpropionyloxymethyl)-1H-indole-3-carboxylic acid | 540 mg, 79% | CC(C(=O)OCN1C=C(C2=CC=CC=C12)C(=O)O)(C)C | C15H17NO4
